US09102607B2
6 g (27 mmol) of 2-(2,2-dimethylpropionyl-oxy)benzoic acid are dissolved in 60 ml of dichloromethane with a few drops of pyridine. 2.4 ml (32 mmol) of thionyl chloride are added dropwise and the mixture is stirred at ambient temperature for 18 h and then concentrated to dryness. 6.8 g of 2-(chlorocarbonyl)phenyl 2,2-dimethylpropanoate are obtained in a quantitative yield.

reactant | 2-(2,2-dimethylpropionyl-oxy)benzoic acid | 27 mmol, 6 g | CC(C(=O)OC1=C(C(=O)O)C=CC=C1)(C)C | C12H14O4
reactant | thionyl chloride | 32 mmol, 2.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | pyridine | a few drops | N1=CC=CC=C1 | C5H5N
product | 2-(chlorocarbonyl)phenyl 2,2-dimethylpropanoate | 6.8 g, quantitative yield | CC(C(=O)OC1=C(C=CC=C1)C(=O)Cl)(C)C | C12H13ClO3
